US08957065B2
Step 1) Preparation of N-(4-fluoro-3-nitro-phenyl)-acrylamide
2 g (12.81 mmol) of 4-fluoro-3-nitroaniline and 3.2 g (38.43 mmol) of sodium bicarbonate were diluted in 20 mL of tetrahydrofuran and 5 mL of distilled water, and 1.14 mL (14.09 mmol) of acryloyl chloride was slowly added thereto at 0° C., and stirred for 1 hour. Upon the completion of the reaction, the resulting mixture was diluted with ethylacetate and washed with a saturated aqueous solution of sodium bicarbonate. The organic layer was separated, dried over anhydrous Na2SO4, and filtered and distilled under a reduced pressure to obtain 2 g of the title compound (yield: 74%).

reactant | 4-fluoro-3-nitroaniline | 12.81 mmol, 2 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | sodium bicarbonate | 38.43 mmol, 3.2 g | C([O-])(O)=O.[Na+]
reactant | acryloyl chloride | 14.09 mmol, 1.14 mL | C(C=C)(=O)Cl | C3H3ClO
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | N-(4-fluoro-3-nitro-phenyl)-acrylamide | 2 g, yield: 74% | FC1=C(C=C(C=C1)NC(C=C)=O)[N+](=O)[O-] | C9H7FN2O3
